US08378092B2
22.1) 3-(3-Bromo-2-methyl-phenyl)-pyridine (Intermediate 73)
(3-Bromo-2-methylphenyl)boronic acid (3 g, 13.96 mmol) and 3-bromopyridine (2.69 ml, 27.92 mmol) in toluene (24 ml) were stirred under argon, then Na2CO3 (5.18 g, 48.86 mmol) and Pd(PPh3)4 (161 mg, 0.14 mmol) were added and the reaction was heated to 110° C. for 48 h. The solvent was evaporated and after addition of ethyl acetate the organic layer was filtered through Celite, then washed with water and dried with Na2SO4, evaporated to dryness and the product was obtained and used without further purification in step 22.2. Yield: 3.01 g, 87

reactant | (3-Bromo-2-methylphenyl)boronic acid | 13.96 mmol, 3 g | BrC=1C(=C(C=CC1)B(O)O)C | C7H8BBrO2
reactant | 3-bromopyridine | 27.92 mmol, 2.69 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | Na2CO3 | 48.86 mmol, 5.18 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 24 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.14 mmol, 161 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Bromo-2-methyl-phenyl)-pyridine | BrC=1C(=C(C=CC1)C=1C=NC=CC1)C | C12H10BrN
